US08497264B2
A microwave vial was charged with (S)—N-(7-bromo-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazine]-5′-yl)formamide (0.075 g, 0.163 mmol), 2-fluoropyridin-3-ylboronic acid (0.046 g, 0.326 mmol), potassium phosphate (0.104 g, 0.489 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (5.77 mg, 8.15 μmol). The vial was flushed with Ar (g), then dioxane (0.611 mL) and water (0.204 mL) were added in sequence. The vial was sealed and heated in a Biotage Initiator microwave reactor for 30 min at 100° C. The reaction was diluted with EtOAc and washed with water. The aqueous layer was extracted with EtOAc, and the combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (0-10% MeOH:DCM w/1% NH4OH) to afford 32 mg of (S)—N-(7-(2-fluoropyridin-3-yl)-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazine]-5′-yl)formamide as an off-white solid.

reactant | (S)—N-(7-bromo-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazine]-5′-yl)formamide | 0.163 mmol, 0.075 g | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)NC=O)OCC(C)(C)C | C21H22BrN3O4
reactant | 2-fluoropyridin-3-ylboronic acid | 0.326 mmol, 0.046 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium phosphate | 0.489 mmol, 0.104 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 8.15 μmol, 5.77 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)—N-(7-(2-fluoropyridin-3-yl)-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazine]-5′-yl)formamide | 32 mg | FC1=NC=CC=C1C=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)NC=O)OCC(C)(C)C | C26H25FN4O4
